US04125732
Methyl (p-Phenoxyphenoxy){p-[2-(α,α,α-Trifluoro-p-tolyloxy)propoxy]phenyl}acetate
As described in Example 35, 4.66 of p-phenoxyphenol is reacted with methyl bromo{p-[2-(α,α,α-trifluoro-p-tolyloxy)propoxy]phenyl}acetate (0.02 mole) in refluxing methanol-benzene for 24 hrs to give the product as a gum.

reactant | p-phenoxyphenol | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | methyl bromo{p-[2-(α,α,α-trifluoro-p-tolyloxy)propoxy]phenyl}acetate | 0.02 mole | BrC(C(=O)OC)C1=CC=C(C=C1)OCC(C)OC1=CC=C(C=C1)C(F)(F)F | C19H18BrF3O4
product | Methyl (p-Phenoxyphenoxy){p-[2-(α,α,α-Trifluoro-p-tolyloxy)propoxy]phenyl}acetate | O(C1=CC=CC=C1)C1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OCC(C)OC2=CC=C(C=C2)C(F)(F)F)C=C1 | C31H27F3O6
